US06956052B2
1-(4-acetylphenyl)-8-{[(2-chloropyridin-3-yl)carbonyl]amino}-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide
A mixture of 8-{[(2-chloropyridin-3-yl)carbonyl]amino}-1-(4-ethynylphenyl)-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide (442 mg, 1.2 mmol), water (65 mg, 3.6 mmol), and triflic acid (270 mg, 1.8 mmol) in dioxane (10 mL) was heated to 100° C. for 18 h. The mixture was cooled to RT, aqueous NaHCO3 was added, and filtered. The product was washed with water and ether, and dried. This gave product (293 mg, 67%). 1H NMR was consistent with its structure.

reactant | 8-{[(2-chloropyridin-3-yl)carbonyl]amino}-1-(4-ethynylphenyl)-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | 1.2 mmol, 442 mg | ClC1=NC=CC=C1C(=O)NC1=CC2=C(CCC=3C(=NN(C23)C2=CC=C(C=C2)C#C)C(=O)N)C=C1 | C26H18ClN5O2
reactant | water | 3.6 mmol, 65 mg | O | H2O
reactant | triflic acid | 1.8 mmol, 270 mg | OS(=O)(=O)C(F)(F)F | CHF3O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1-(4-acetylphenyl)-8-{[(2-chloropyridin-3-yl)carbonyl]amino}-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | C(C)(=O)C1=CC=C(C=C1)N1N=C(C=2CCC3=C(C12)C=C(C=C3)NC(=O)C=3C(=NC=CC3)Cl)C(=O)N | C26H20ClN5O3
